US05661161
Step G: Preparation of 2(S)-[1-(t-Butoxycarbonyl)pyrrolidin-2(S)-ylmethyloxy]-3-phenylpropionyl-methionine methyl ester
To a solution of 2(R and S)-[1-(t-butoxycarbonyl)pyrrolidin-2(S)-ylmethyloxy]-3-phenylpropionic acid (263.6 mg, 0.754 mmol) in DMF (8.0 mL) were added 3-hydroxy-1,2,3-benzotriazin-4(3H)-one (HOOBT, 137 mg, 0.840 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 164 mg, 0.855 mmol), L-methionine methyl ester hydrochloride (176 mg, 0.881 mmol), and Et3N (0.35 mL, 2.5 mmol). The reaction was stirred under argon at ambient temperature for 18 h, diluted with EtOAc (70 mL), and washed with 10% aq citric acid (70 mL), saturated aq NaHCO3 (40, 20 mL), and saturated aq NaCl (40 mL). The organic layer was dried (Na2SO4) and evaporated in vacuo. The diastereomeric crude products were purified and separated by chromatography (silica gel, 1:19 to 1:2 EtOAc/CH2Cl2) to give the title compound. 1H NMR (CD3OD, 400 MHz) δ 7.35-7.17 (m, 5H), 4.63-4.55 (m, 1H), 4.08-3.90 (m, 2H), 3.72 (s, 3H), 3.55-3.46 (m, 2H), 3.34-3.22 (m, 1H), 3.09 (dd, J=14, 4 Hz, 1H), 2.91 (dd, J=14, 7 Hz, 1H), 2.38-2.20 (m, 2H), 2.10-2.00 (m, 1H), 2.04 (br s, 3H), 1.97-1.86 (m, 6H), 1.44 (s, 9H).

reactant | [1-(t-butoxycarbonyl)pyrrolidin-2(S)-ylmethyloxy]-3-phenylpropionic acid | 0.754 mmol, 263.6 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC(C(=O)O)CC1=CC=CC=C1 | C19H27NO5
reactant | 3-hydroxy-1,2,3-benzotriazin-4(3H)-one | 0.840 mmol, 137 mg | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.855 mmol, 164 mg | Cl.CN(CCCN=C=NCC)C
reactant | L-methionine methyl ester hydrochloride | 0.881 mmol, 176 mg | Cl.COC([C@@H](N)CCSC)=O
reactant | Et3N | 2.5 mmol, 0.35 mL | CCN(CC)CC | C6H15N
reactant | DMF | 8.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 2(S)-[1-(t-Butoxycarbonyl)pyrrolidin-2(S)-ylmethyloxy]-3-phenylpropionyl-methionine methyl ester | COC([C@](NC(CCC1=CC=CC=C1)=O)(CCSC)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C25H38N2O6S
